US06982274B2
4-Fluoro-3-(3-fluorobenzoyl)-5-methoxybenzonitrile
To a solution of 7.0 g of 4-fluoro-3-[(3-fluorophenyl)-hydroxymethyl]-5-methoxybenzonitrile in 70 ml toluene was added 11.1 g of activated manganese dioxide at room temperature. After stirring at 60° C. for one day, the manganese dioxide was filtered off through Celite. The solvent was removed and the crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:3), to give 640 mg of the title compound as colorless crystals.

reactant | 4-fluoro-3-[(3-fluorophenyl)-hydroxymethyl]-5-methoxybenzonitrile | 7.0 g | FC1=C(C=C(C#N)C=C1OC)C(O)C1=CC(=CC=C1)F | C15H11F2NO2
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 11.1 g | [O-2].[O-2].[Mn+4]
product | 4-Fluoro-3-(3-fluorobenzoyl)-5-methoxybenzonitrile | 640 mg | FC1=C(C=C(C#N)C=C1OC)C(C1=CC(=CC=C1)F)=O | C15H9F2NO2
